US09399646B2
Step 2: (E)-3-(4-((E)-2-(2-Chloro-4-fluorophenyl)-1-(1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylamide
To a solution of (E)-3-(4-((E)-2-(2-chloro-4-fluorophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acryloyl chloride (0.15 g, 0.27 mmol) in dioxane (2.7 mL) at 0° C., ammonia (2.6 mL, 0.5M solution in dioxane) and triethylamine (0.136 g, 1.35 mmol) were added sequentially. The resulting mixture was warmed to room temperature and stirred for 6 h. The mixture was concentrated down to give a residue that was redissolved in EtOH (5.4 mL). HCl (0.5 mL, 2N HCl in diethyl ether) was added, and the reaction was heated at 70° C. for 4 h. Then, the mixture was diluted with water and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, brine, dried over sodium sulfate, filtered, and concentrated to give the crude product. This crude material was purified on a RP-C18 column using 40-100% acetonitrile in water in the presence of 0.1% TFA to afford the title compound. NMR (400 MHz, DMSO-d6): δ 13.12 (s, 1H), 8.11 (s, 1H), 7.69 (s, 1H), 7.56 (d, 1H), 7.43 (s, 1H), 7.38-7.30 (m, 2H), 7.26-7.11 (m, 5H), 7.03 (s, 1H), 6.98 (d, 2H), 6.44 (d, 1H), 2.36 (q, 2H), 0.89 (t, 3H). LCMS: 446 (M+H)+.

reactant | (E)-3-(4-((E)-2-(2-chloro-4-fluorophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acryloyl chloride | 0.27 mmol, 0.15 g | ClC1=C(C=CC(=C1)F)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C(=O)Cl)/CC | C31H27Cl2FN2O2
reactant | ammonia | 0.5M, 2.6 mL | N | H3N
reactant | triethylamine | 1.35 mmol, 0.136 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N, 0.5 mL | Cl | ClH
reactant | dioxane | 2.7 mL | O1CCOCC1 | C4H8O2
solvent | EtOH | 5.4 mL | CCO | C2H6O
solvent | water | O | H2O
product | (E)-3-(4-((E)-2-(2-Chloro-4-fluorophenyl)-1-(1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylamide | ClC1=C(C=CC(=C1)F)/C(=C(/C=1C=C2C=NNC2=CC1)\C1=CC=C(C=C1)/C=C/C(=O)N)/CC | C26H21ClFN3O
